US09382226B2
A stirred solution of 2-Fluoro-5-methylamino-4-nitro-benzonitrile (1.0 g, 0.0051 mol) in EtOH (20 mL) was hydrogenated using Pd/C for 3 h at room temperature. The reaction was filtered through CELITE® and the filter bed was thoroughly washed with EtOH. The resulting solution was concentrated to afford the crude 4-amino-2-fluoro-5-methylamino-benzonitrile as a brownish black solid. C8H8FN3; Crude LCMS (M+1): 166.2; LCMS Purity: 85.05%.

reactant | 2-Fluoro-5-methylamino-4-nitro-benzonitrile | 0.0051 mol, 1.0 g | FC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])NC | C8H6FN3O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-2-fluoro-5-methylamino-benzonitrile | NC1=CC(=C(C#N)C=C1NC)F | C8H8FN3
